US07772403B2
A stirred (350 rpm) solution of (5S)-5-[(tert-butylsulfinyl)methyl]-5-methylimidazolidine-2,4-dione (1.00 eq, 22.5 mmol, 5.22 g) in acetic acid (1.75 mol, 100 mL, 105 g) and water (555 mmol, 10.0 mL, 10.0 g) was cooled to 6° C. and purged with nitrogen. The nitrogen purge was stopped and chlorine gas (59.2 mmol, 4.2 g, 1.33 L at STP) was then bubbled through the mixture over a period of 25 min, maintaining the jacket temperature at 6° C. The temperature of the reaction mixture reached a maximum of 9.5° C. The end of reaction was determined by a persistent green colouration of the mixture and a fall in temperature from 9.1 to 7.8° C. over 1 min. The supply of chlorine was shut off and a nitrogen purge applied. HPLC analysis of the mixture at this point revealed complete conversion of the sulfoxide intermediates. The mixture was heated to 15° C., discharged from the vessel and concentrated under reduced pressure (bath temperature 45° C.). The residue was suspended in toluene (469 mmol, 50.0 mL, 43.3 g) and evaporated to low volume. Further toluene (469 mmol, 50.0 mL, 43.3 g) was added and the evaporation procedure repeated. The residue was triturated with iso-hexane (377 mmol, 50.0 mL, 32.5 g) and then collected by filtration. The resulting solid was washed with iso-hexane (151 mmol, 20.0 mL, 13.0 g), sucked dry on the filter and dried in vacuo for 24 h at 40° C. to give [(4S)-4-methyl-2,5-dioxoimidazolidin-4-yl]methanesulfonyl chloride as a white crystalline solid (0.874 eq, 19.6 mmol, 4.45 g) in 87% yield.

reactant | (5S)-5-[(tert-butylsulfinyl)methyl]-5-methylimidazolidine-2,4-dione | 22.5 mmol, 5.22 g, 1.00 eq | C(C)(C)(C)S(=O)C[C@@]1(C(NC(N1)=O)=O)C | C9H16N2O3S
reactant | acetic acid | 1.75 mol, 100 mL, 105 g | C(C)(=O)O | C2H4O2
reactant | water | 555 mmol, 10.0 mL, 10.0 g | O | H2O
reactant | chlorine | 59.2 mmol, 1.33 L, 4.2 g | ClCl | Cl2
reactant | toluene | 469 mmol, 50.0 mL, 43.3 g | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 469 mmol, 50.0 mL, 43.3 g | C1(=CC=CC=C1)C | C7H8
reactant | iso-hexane | 377 mmol, 50.0 mL, 32.5 g | CCCC(C)C | C6H14
reactant | iso-hexane | 151 mmol, 20.0 mL, 13.0 g | CCCC(C)C | C6H14
product | [(4S)-4-methyl-2,5-dioxoimidazolidin-4-yl]methanesulfonyl chloride | 19.6 mmol, 4.45 g, 0.874 eq, 87% yield | C[C@@]1(NC(NC1=O)=O)CS(=O)(=O)Cl | C5H7ClN2O4S
